US04933355
2-Benzylaminothiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 5 g of ethyl 2-benzylaminothiazole-4-carboxylate, 1.4 g of lithium aluminum hydride and 100 ml of tetrahydrofuran, giving the title compound as colorless needles.

reactant | ethyl 2-benzylaminothiazole-4-carboxylate | 5 g | C(C1=CC=CC=C1)NC=1SC=C(N1)C(=O)OCC | C13H14N2O2S
reactant | lithium aluminum hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Benzylaminothiazol-4-ylmethanol | C(C1=CC=CC=C1)NC=1SC=C(N1)CO | C11H12N2OS
